US05196548
(1R,4R)-2-(4-Toluenesulfonyl)-5-methyl-2,5-diazabicyclo-[2.2.1]heptane
A Parr bottle was charged with 0.5 g (1.29 mmol) of (2R,4S)-2-chloromethyl-4-chloro-1-(4-toluenesulfonyl)pyrrolidine and 6 ml of methanol and the bottle was tared. Methylamine gas was then bubbled through the methanol solution until 0.4 g (12.9 mol) of the gas had dissolved. The bottle was then sealed and heated to 110° C. After heating for 16 hours, the reaction was cooled and the solvent was evaporated at reduced pressure. The residual solids were partitioned between 50 ml of methylene chloride and 40 ml of 10% aqueous NaOH solution. The layers were separated and the organic layer was washed with 40 additional milliliters of 10% aqueous NaOH solution, and then dried over Na2SO4. Evaporation of the solvent under reduced pressure provided 309 mg of the desired product which represents a 90% yield. M.P.=82°-87° C. [α]D =-16.8° (c=1.038, CH3OH).

reactant | (2R,4S)-2-chloromethyl-4-chloro-1-(4-toluenesulfonyl)pyrrolidine | 1.29 mmol, 0.5 g | ClC[C@@H]1N(C[C@H](C1)Cl)S(=O)(=O)C1=CC=C(C=C1)C | C12H15Cl2NO2S
reactant | Methylamine | CN | CH5N
solvent | methanol | CO | CH4O
solvent | methanol | 6 ml | CO | CH4O
product | (1R,4R)-2-(4-Toluenesulfonyl)-5-methyl-2,5-diazabicyclo-[2.2.1]heptane | 309 mg, 90% yield | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H]2CN([C@@H](C1)C2)C)C | C13H18N2O2S
